US04436903
To a mixture of 9.5 g (50 mmols) of titanium(IV) chloride and 5.67 g (150 mmols) of sodium borohydride in 150 ml of dimethoxy ethane is slowly added, at -20° C., a suspension of 10.86 g (20 mmols) of 7β-[2-(2-thienyl)-acetylamino]-3-pyrrolidino-3-cephem-4-carboxylic acid p-nitrobenzyl ester 1-oxide in 150 ml of ethylene glycol dimethyl ether, so that the temperature does not rise above -15° C. When the addition is complete, the reaction mixture is warmed to 0° C. and then a mixture of 50 ml of glacial acetic acid and 50 ml of ethylene glycol dimethyl ether is added dropwise. The reaction mixture is then stirred for 36 hours at room temperature. While cooling with ice, 200 ml of ice-water are cautiously added dropwise to the blue reaction solution. After extraction with three 150 ml portions of methylene chloride, the organic phase is dried over sodium sulfate and the solvent is removed by vacuum distillation, affording almost pure 7β-[2-(2-thienyl)-acetylamino]-3-cephem-4-carboxylic acid p-nitrobenzyl ester as a foam.

reactant | sodium borohydride | 150 mmols, 5.67 g | [BH4-].[Na+]
reactant | 7β-[2-(2-thienyl)-acetylamino]-3-pyrrolidino-3-cephem-4-carboxylic acid p-nitrobenzyl ester 1-oxide | 20 mmols, 10.86 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS([C@H]3N2C([C@H]3NC(CC=3SC=CC3)=O)=O)=O)N3CCCC3)C=C1 | C24H24N4O7S2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | dimethoxy ethane | 150 ml | C(OC)COC | C4H10O2
solvent | ethylene glycol dimethyl ether | 150 ml | COCCOC | C4H10O2
catalyst | titanium(IV) chloride | 50 mmols, 9.5 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
product | 7β-[2-(2-thienyl)-acetylamino]-3-cephem-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=CCS[C@H]3N2C([C@H]3NC(CC=3SC=CC3)=O)=O)C=C1 | C20H17N3O6S2
